US08461328B2
(4-Methanesulfonylmethyl-cyclohexyl)-carbamic acid benzyl ester (0.54 g, 1.66 mmol) in ethanol (15 mL, IMS grade) under nitrogen was treated with 10% palladium/carbon (0.18 g, 0.17 mmol). The mixture was purged with hydrogen gas and was stirred under an atmosphere of hydrogen (balloon) for 16 hours. The catalyst was filtered off through Celite® and the filter cake rinsed several times with ethanol. The filtrate was concentrated and then purified by column chromatography on Isolute® SCX-2 cartridge (eluting with MeOH then 2M NH3 in MeOH). The relevant fractions were combined concentrated under vacuum to afford 0.32 g (95%) 4-methanesulfonylmethyl-cyclohexylamine as clear oil that was used without further purification. LCMS (Method I, ESI): RT=0.35 min, m+H=191.9.

reactant | (4-Methanesulfonylmethyl-cyclohexyl)-carbamic acid benzyl ester | 1.66 mmol, 0.54 g | C(C1=CC=CC=C1)OC(NC1CCC(CC1)CS(=O)(=O)C)=O | C16H23NO4S
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | palladium/carbon | 0.17 mmol, 0.18 g | [Pd] | Pd
product | 4-methanesulfonylmethyl-cyclohexylamine | 0.32 g, 95% | CS(=O)(=O)CC1CCC(CC1)N | C8H17NO2S
